US09382188B2
J) ethyl 3-cyclopropyl-3-(6-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)pyrimidin-4-yl)propanoate
Under a nitrogen atmosphere, to a solution of 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol (300 mg) and ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate (259 mg) in THF (8.0 mL) were added 1,1′-(azodicarbonyl)dipiperidine (419 mg) and tributylphosphine (409 μL) at room temperature, and the mixture was stirred for 2 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (362 mg) as a colorless oil.

reactant | 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol | 300 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=N1)O)CC(C)(C)C | C17H20FNO2
reactant | ethyl 3-cyclopropyl-3-(6-(hydroxymethyl)pyrimidin-4-yl)propanoate | 259 mg | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)CO | C13H18N2O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 419 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 409 μL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(6-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)pyrimidin-4-yl)propanoate | 362 mg | C1(CC1)C(CC(=O)OCC)C1=NC=NC(=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C30H36FN3O4
